US06635640B2
Pyridinium tribromide (90% purity from Aldrich, 7.1 g, 19.98 mmol) was added in portions over 10 minutes to a suspension of 5-(1H-indol-4-yl)-pyrimidin-2-ylamine (1.4 g, 6.66 mmol) in 2-methyl-2-propanol (50 mL), ethanol (30 mL) and acetic acid (18 mL). The mixture was stirred at room temperature for 2 hours, and then acetic acid (72 mL), water (1 mL) and zinc (6.5 g, 100 mmol) were added. Stirring was continued for 1.5 hours. The unreacted zinc dust was filtered off and washed with methanol. The filtrate was concentrated and the syrupy residue was suspended in water (100 mL) overnight. The solid which formed was filtered off. The filtrate was basified with aqueous sodium bicarbonate and extracted with ethanol:dichloromethane (5:95) to give 4-(2-amino-pyrimidin-5-yl)-1,3-dihydro-indol-2-one. 1H NMR (360 MHz, DMSO-d6) δ 10.46 (s, 1H, NH), 8.47 (s, 2H), 7.24 (t, J=7.6 Hz, 1H), 6.99 (d, J=7.6 Hz, 1H), 6.79 (d, J=7.6 Hz, 1H), 6.78 (s, 2H, NH2), 3.64 (s, 2H)

reactant | Pyridinium tribromide | 19.98 mmol, 7.1 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 5-(1H-indol-4-yl)-pyrimidin-2-ylamine | 6.66 mmol, 1.4 g | N1C=CC2=C(C=CC=C12)C=1C=NC(=NC1)N | C12H10N4
reactant | water | 1 mL | O | H2O
solvent | 2-methyl-2-propanol | 50 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 100 mmol, 6.5 g | [Zn] | Zn
solvent | acetic acid | 72 mL | C(C)(=O)O | C2H4O2
product | 4-(2-amino-pyrimidin-5-yl)-1,3-dihydro-indol-2-one | NC1=NC=C(C=N1)C1=C2CC(NC2=CC=C1)=O | C12H10N4O
